US05093328
(2S,4R)-1-Benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine (111 g) was dissolved in dry dichloromethane (1100 ml), and triethylamine (36.87 g) was added thereto. After addition of methanesulfonyl chloride (41.81 g) under nitrogen stream while ice-cooling, the resultant mixture was stirred at the same temperature for 30 minutes. The reaction mixture was washed with water, aqueous sodium chloride solution, water, aqueous sodium bicarbonate solution and water in order and dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-1-benzyloxycarbonyl-2-methylsulfonyloxymethyl-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2S,4R)-1-Benzyloxycarbonyl-2-hydroxymethyl-4-t-butyldimethylsilyloxypyrrolidine | 111 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C19H31NO4Si
reactant | triethylamine | 36.87 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 41.81 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1100 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-benzyloxycarbonyl-2-methylsulfonyloxymethyl-4-t-butyldimethylsilyloxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COS(=O)(=O)C | C20H33NO6SSi
